**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  SMT Mono-color Chip LED Compact 
* Matchcode:              WL-SMCC
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-02-17
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 0402_150040AS73240 1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=177.48E-12
+ N=4.1591
+ RS=.55187
+ IKF=727.11
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
************************
.subckt 0402_150040BS73240 1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=11.416E-15
+ N=3.7886
+ RS=1.4842
+ IKF=213.88E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=100
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*************************
.subckt 0402_150040GS73240 1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=6.1877E-9
+ N=5
+ RS=5.3132
+ IKF=888.94E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
**************************
.subckt 0402_150040RS73240 1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=1.6972E-12
+ N=3.2944
+ RS=2.1152
+ IKF=492.85
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
****************************
.subckt 0402_150040SS73240 1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=1.0025E-15
+ N=2.2259
+ RS=.3926
+ IKF=240.91E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
****************************
.subckt 0402_150040VS73240 1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=405.27E-18
+ N=2.1772
+ RS=.76388
+ IKF=194.19E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*****************************
.subckt 0402_150040YS73240 1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=2.2176E-18
+ N=2.1216
+ RS=1.9039
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*******************************
.subckt 0402_150040AS73220 1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=267.10E-21
+ N=1.9663
+ RS=1.5631
+ IKF=8.6866
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
************************
.subckt 0402_150040BS73220 1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=7.6676E-9
+ N=5
+ RS=2.6261
+ IKF=1.3194E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*************************
.subckt 0402_150040GS73220  1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=2.4395E-9
+ N=5
+ RS=3.2882
+ IKF=2.7030E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
**************************
.subckt 0402_150040RS73220 1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=1.0025E-15
+ N=2.2259
+ RS=.3926
+ IKF=240.91E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
**************************
.subckt 0402_150040SS73220 1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=1.0025E-15
+ N=2.2259
+ RS=.3926
+ IKF=240.91E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
****************************
.subckt 0402_150040VS73220 1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=557.55E-18
+ N=2.1602
+ RS=.37378
+ IKF=236.66E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******************************
.subckt 0402_150040YS73220 1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=824.78E-18
+ N=2.2038
+ RS=.38595
+ IKF=240.07E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*****************************
.subckt 0603_150060BS73220 1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=11.416E-15
+ N=3.7886
+ RS=1.4842
+ IKF=213.88E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******************************
.subckt 0603_150060GS73220 1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=406.49E-12
+ N=4.8627
+ RS=4.1370
+ IKF=13.914E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******************************
.subckt 0603_150060RS73220 1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=153.31E-12
+ N=4.1406
+ RS=1.0267
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
*******************************
.subckt 0603_150060VS73220 1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=405.27E-18
+ N=2.1772
+ RS=.76388
+ IKF=194.19E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
*********************************
.subckt 0603_150060YS73220 1 2
D1 1 2 SMCC
.MODEL SMCC D
+ IS=405.27E-18
+ N=2.1772
+ RS=.76388
+ IKF=194.19E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
**********************************